US07700628B2
C. N-(5-Chloropyridin-2-yl)-2-[2-(1,4-dioxaspiro[4.5]dec-8-yloxy)-4-isopropyl-benzoylamino]benzamide
4-Hydroxycyclohexanone-1,1-ethylene ketal (0.63 g, 4 mmol), 2-[4-isopropyl-2-hydroxybenzoylamino]-N-(5-chloropyridin-2-yl)benzamide (1.64 g, 4 mmol), triphenyl-phosphine (1.05 g, 4 mmol), and dry DMF (2 mL) were sonicated for 5 min at room temperature. DIAD (0.8 mL, 4 mmol) was added and sonication was continued for 1 h. Ether (40 mL) was added and the solution was chilled overnight in the freezer to crystallize triphenylphosphine oxide. The crystals were filtered, washed with a little ether, and the combined filtrates were evaporated to dryness to give a yellow oil.

reactant | 4-Hydroxycyclohexanone-1,1-ethylene ketal | 4 mmol, 0.63 g | C1(C)OC2(CCC(CC2)O)O1 | C8H14O3
reactant | 2-[4-isopropyl-2-hydroxybenzoylamino]-N-(5-chloropyridin-2-yl)benzamide | 4 mmol, 1.64 g | C(C)(C)C1=CC(=C(C(=O)NC2=C(C(=O)NC3=NC=C(C=C3)Cl)C=CC=C2)C=C1)O | C22H20ClN3O3
reactant | triphenyl-phosphine | 4 mmol, 1.05 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 4 mmol, 0.8 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | Ether | 40 mL | CCOCC | C4H10O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-(5-Chloropyridin-2-yl)-2-[2-(1,4-dioxaspiro[4.5]dec-8-yloxy)-4-isopropyl-benzoylamino]benzamide | ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1)NC(C1=C(C=C(C=C1)C(C)C)OC1CCC2(OCCO2)CC1)=O)=O | C30H32ClN3O5
